US09422312B2
Step 2: N′-(6-Chloropyridin-3-yl)-N,N-dimethyl-methanesulfonimidamide
The title compound is prepared from N-(6-chloropyridin-3-yl)methanesulfinamide and dimethylamine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.78 min; Mass spectrum (ESI+): m/z=234 [M+H]+.

reactant | N-(6-chloropyridin-3-yl)methanesulfinamide | ClC1=CC=C(C=N1)NS(=O)C | C6H7ClN2OS
reactant | dimethylamine | CNC | C2H7N
product | N′-(6-Chloropyridin-3-yl)-N,N-dimethyl-methanesulfonimidamide | ClC1=CC=C(C=N1)N=S(=O)(N(C)C)C | C8H12ClN3OS
